US04772600
2-(4-Chloro-2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A mixture of 2-(4-chloro-2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester (1.6 g, 0.005 mole), and crushed sodium hydroxide (0.2 g, 0.005 mole) in aqueous ethanol (5 ml water and 4 ml ethanol) was heated at reflux for 1/2 hr. The reaction mixture was diluted with water (10 ml) and extracted with ether (2×). The aqueous layer was acidified with 3N hydrochloric acid. The precipitate was collected, washed with water, and dried under high vacuum at 50° C. overnight to give 0.84 g of crystals, mp 218°-20° C. with decomposition.

reactant | 2-(4-chloro-2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.005 mole, 1.6 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=NC=CC(=C2)Cl)=O | C15H13ClN4O2
reactant | sodium hydroxide | 0.005 mole, 0.2 g | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(4-Chloro-2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.84 g | ClC1=CC(=NC=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H9ClN4O2
